US04983596
To a solution of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]- 4-{(1R)-1-methyl-2-oxo-2-(2-thioxothiazolidin-3-yl)ethyl]-2-azetidinone (3.17 g) in tetrahydrofuran (30 ml) were added 1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-mercaptopyrrolidine (2.21 g) and triethylamine (1.46 ml) at 5° C., and the mixture was stirred at room temperature for 8.5 hours. Acetic acid (0.63 ml) was added to the mixture and the mixture was evaporated. The residue was dissolved in water and ethyl acetate. The organic layer was separated, washed with water, dried and evaporated. The residue was purified by chromatography on silica gel eluting with a mixture of dichloromethane and ethyl acetate (2:1 V/V) to give (3S,4S)-4-[(1R)-2-{(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidin-4-yl-thio}-1-methyl-2-oxoethyl]-3-{(1R)-1-(t-butyldimethylsilyl-oxy)ethyl}-2-azetidinone (1.82 g).

reactant | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]- 4-{(1R)-1-methyl-2-oxo-2-(2-thioxothiazolidin-3-yl)ethyl]-2-azetidinone | 3.17 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(N1C(SCC1)=S)=O)C)=O | C17H30N2O3S2Si
reactant | 1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-mercaptopyrrolidine | 2.21 g | C(C=C)OC(=O)N1C(CC(C1)S)COCCF | C11H18FNO3S
reactant | triethylamine | 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | Acetic acid | 0.63 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (3S,4S)-4-[(1R)-2-{(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidin-4-yl-thio}-1-methyl-2-oxoethyl]-3-{(1R)-1-(t-butyldimethylsilyl-oxy)ethyl}-2-azetidinone | 1.82 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC([C@H](C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)COCCF | C25H43FN2O6SSi
